US04954630
(a) N-BOC-thyroxine
A solution of 10 g. (12.5 mMole) L-thyroxine sodium salt monohydrate in a mixture of 300 ml. dioxan/water (2:1 v/v) and 15 ml. 1N aqueous sodium hydroxide solution is mixed with 3 g. (13.75 mMole) di-tert.-butyl dicarbonate ((BOC)2O) and stirred for 2 hours at ambient temperature with the exclusion of light. The pH is adjusted to 2 with 2M potassium hydrogen sulphate solution, the solution is extracted with ethyl acetate and the ethyl acetate extract is washed with water, dried over anhydrous sodium sulphate and evaporated. The solid residue is triturated with petroleum ether, filtered off with suction and dried in a desiccator.

reactant | L-thyroxine sodium salt monohydrate | 12.5 mMole | O.[Na+].N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)[O-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-tert.-butyl dicarbonate | 13.75 mMole | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulphate | 2M | S(=O)(=O)(O)[O-].[K+]
solvent | dioxan water | O1CCOCC1.O
product | N-BOC-thyroxine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C20H19I4NO6
